US07320994B2
4-{3-(3,5-bis-trifluoromethyl-benzyl)-5-[4-(2-chloro-benzyl)-5-methyl-4H-[1,2,4]triazol-3-yl]-3H-[1,2,3]triazol-4-yl}-thiomorpholine 1-oxide
Add m-chloro-perbenzoic acid (29 mg, 0.13 mmol) to a solution of 4-{3-(3,5-bis-trifluoromethyl-benzyl)-5-[4-(2-chloro-benzyl)-5-methyl-4H-[1,2,4]triazol-3-yl]-3H-[1,2,3]triazol-4-yl}-thiomorpholine (69 mg, 0.11 mmol) in THF (1 mL) at −78° C. After 30 minutes, quench with 1N Na2S2O3 at −78° C., warm to RT. Dilute with 20% i-PrOH/CHCl3, wash with 1N HCl, saturated NaHCO3 solution, and brine. Dry the combined organic layers over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-4% MeOH/CHCl3 to afford the title compound: MS(IS) 618 (M+1). TLC: Rf=0.18 (5% MeOH/CHCl3).

reactant | m-chloro-perbenzoic acid | 0.13 mmol, 29 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-{3-(3,5-bis-trifluoromethyl-benzyl)-5-[4-(2-chloro-benzyl)-5-methyl-4H-[1,2,4]triazol-3-yl]-3H-[1,2,3]triazol-4-yl}-thiomorpholine | 0.11 mmol, 69 mg | FC(C=1C=C(CN2N=NC(=C2N2CCSCC2)C2=NN=C(N2CC2=C(C=CC=C2)Cl)C)C=C(C1)C(F)(F)F)(F)F | C25H22ClF6N7S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-{3-(3,5-bis-trifluoromethyl-benzyl)-5-[4-(2-chloro-benzyl)-5-methyl-4H-[1,2,4]triazol-3-yl]-3H-[1,2,3]triazol-4-yl}-thiomorpholine 1-oxide | FC(C=1C=C(CN2N=NC(=C2N2CCS(CC2)=O)C2=NN=C(N2CC2=C(C=CC=C2)Cl)C)C=C(C1)C(F)(F)F)(F)F | C25H22ClF6N7OS
